US08207168B2
A mixture of 1-(3,5-difluoro-4-methoxyphenyl)ethanone (12 g, 64.5 mmol) and 48% aqueous HBr (32 mL) was stirred at reflux for 30 h. The reaction was cooled to rt and diluted with water and the aqueous layer was extracted twice with methylene chloride. The combined organics were dried (Na2SO4), filtered, and concentrated to give 1-(3,5-difluoro-4-hydroxyphenyl)ethanone (10 g, 91%), mp 141-143° C.; MS m/z 171 (M−H).

reactant | 1-(3,5-difluoro-4-methoxyphenyl)ethanone | 64.5 mmol, 12 g | FC=1C=C(C=C(C1OC)F)C(C)=O | C9H8F2O2
reactant | HBr | 32 mL | Br | BrH
solvent | water | O | H2O
product | 1-(3,5-difluoro-4-hydroxyphenyl)ethanone | 10 g, 91% | FC=1C=C(C=C(C1O)F)C(C)=O | C8H6F2O2
